US06583321B1
Preparation of 4′-Methanesulfonyl-3,4-dibenzyloxy-biphenyl
4′-methanesulfonyl-biphenyl-3,4-diol (30 mg) and potassium carbonate (38 mg) were dissolved in methylethylketone. Afterward, benzylbromide (60 mg) and tetrabutylammoniumiodide (2-3 mg) were added one after another and heated for 24 hours at 40° C. After filtering just potassium carbonate, the residue was separated through a silica gel attributed chromatography (an eluting agent: ethylacetate/n-hexane=1/1, v/v). As a result, the present compound (42 mg, productive yield 85%) was obtained.

reactant | 4′-methanesulfonyl-biphenyl-3,4-diol | 30 mg | CS(=O)(=O)C1=CC=C(C=C1)C1=CC(=C(C=C1)O)O | C13H12O4S
reactant | potassium carbonate | 38 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzylbromide | 60 mg | C(C1=CC=CC=C1)Br | C7H7Br
solvent | methylethylketone | CC(=O)CC | C4H8O
catalyst | tetrabutylammoniumiodide | 2-3 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4′-Methanesulfonyl-3,4-dibenzyloxy-biphenyl | yield 85% | CS(=O)(=O)C1=CC=C(C=C1)C1=CC(=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C27H24O4S
